US08236826B2
Production of 3,4-dichloro-N-{6-[4-(4-phenethylpiperazine-1-carbonyl)phenoxy]pyridin-3-yl}benzamide
To a solution of ethyl 4-(5-aminopyridin-2-yloxy)benzoate (690 mg, 2.7 mmol) in THF (10 mL) were added triethylamine (0.73 mL, 5.3 mmol) and 3,4-dichlorobenzoyl chloride (570 mg, 2.7 mmol) under ice cooling, and the resulting solution was stirred for 1 hour under ice cooling. This reaction solution was concentrated under reduced pressure, and to the residue was added ethyl acetate. The resulting solution was washed with water, 1 N hydrochloric acid and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was washed, when hot, with n-hexane:dichloromethane=1:2. The product was dissolved in THF (20 mL). To the residue was added 1 N aqueous sodium hydroxide (2.9 mL, 2.9 mmol), and this solution was stirred for 5 hours at 100° C. THF was evaporated, and the aqueous layer was made to have a pH of 3 with 1 N hydrochloric acid. Precipitated matter was collected by filtration, and dried. The resulting product was dissolved in bMF (10 mL), and 1-phenethylpiperazine (200 mg, 1.1 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (240 mg, 1.3 mmol) and 1-hydroxybenzotriazole monohydrate (170 mg, 1.3 mmol) were added to the solution. The resulting solution was stirred for 1 day at room temperature. This reaction solution was concentrated under reduced pressure, and to the residue was added chloroform. The resulting solution was washed with water, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (methanol:chloroform=1:99), to thereby yield 310 mg of the title compound.

reactant | ethyl 4-(5-aminopyridin-2-yloxy)benzoate | 2.7 mmol, 690 mg | NC=1C=CC(=NC1)OC1=CC=C(C(=O)OCC)C=C1 | C14H14N2O3
reactant | triethylamine | 5.3 mmol, 0.73 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 2.7 mmol, 570 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | sodium hydroxide | 2.9 mmol, 1 N, 2.9 mL | [OH-].[Na+]
reactant | 1-phenethylpiperazine | 1.1 mmol, 200 mg | C(CC1=CC=CC=C1)N1CCNCC1 | C12H18N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.3 mmol, 240 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 1.3 mmol, 170 mg | O.ON1N=NC2=C1C=CC=C2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3,4-dichloro-N-{6-[4-(4-phenethylpiperazine-1-carbonyl)phenoxy]pyridin-3-yl}benzamide | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)C(=O)N2CCN(CC2)CCC2=CC=CC=C2)C=CC1Cl | C31H28Cl2N4O3
